US07196103B2
(i) 4-Bromo-1H-indole-2-carboxylic acid tert-butyl ester
To 7 g 4-Bromo-1H-indole-2-carboxylic acid in 150 ml toluene, 28 ml Di-tert-butoxymethyl-dimethyl-amine were added dropwise at 80° C. The reaction mixture was heated under reflux for additional 12 h. After removal of the solvents under reduced pressure the residue was dissolved in 200 ml DCM and washed with sat. aqueous NaHCO3 solution (2×50 ml). The organic layer was dried over MgSO4 and concentrated under reduced pressure. The residue was purified by chromatography on silica gel eluting with n-heptane/ethyl acetate 9:1. The fractions containing the product were collected and concentrated under reduced pressure. Yield: 6.5 g . MS (ESI+): m/e=297.

reactant | 4-Bromo-1H-indole-2-carboxylic acid | 7 g | BrC1=C2C=C(NC2=CC=C1)C(=O)O | C9H6BrNO2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | Di-tert-butoxymethyl-dimethyl-amine | 28 ml | C(C)(C)(C)OC(OC(C)(C)C)N(C)C | C11H25NO2
product | 4-Bromo-1H-indole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C=1NC2=CC=CC(=C2C1)Br | C13H14BrNO2
